US07989457B2
A solution of 3-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester (1.993 g, 6.773 mmol) in CH2Cl2 (34 mL) at 0° C. is treated with 1.0 M diisobutylaluminum hydride in toluene (DIBAL, 14.3 mL) dropwise over 3 min. time and stirred for 3.5 h. The reaction mixture is quenched with MeOH (5.0 mL), treated with 1M tartaric acid (50 mL), and stirred overnight. The organic layer is separated. The aqueous layer is extracted with CH2Cl2 (1×50 mL). Combined organic extracts are dried over MgSO4, filtered, and conc. to provide (3-methyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol (1.616 g, 90%) as a white solid.

reactant | 3-methyl-4′-trifluoromethyl-biphenyl-4-carboxylic acid methyl ester | 6.773 mmol, 1.993 g | COC(=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C | C16H13F3O2
reactant | diisobutylaluminum hydride | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 34 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 14.3 mL | C1(=CC=CC=C1)C | C7H8
product | (3-methyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol | 1.616 g, 90% | CC=1C=C(C=CC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O
